US06258296B1
(1) Preparation of 2-fluoro-4-acetoxy-1-(2-ethylbutyloxy)carbonylbenzene
Thionyl chlorine in an amount of 60 ml (milliliter) was added to 11.9 g (0.06 mol) of 2-fluoro-4-acetoxybenzoic acid, and the mixture was allowed to react under reflux for 7 hours. Then, excess thionyl chloride was distilled off, and then 10 ml of pyridine and 3.7 g (0.0402 mol) of 2-ethyl-1-butanol were dropwise added.

reactant | Thionyl chlorine | S(=O)=Cl | ClOS
reactant | 2-fluoro-4-acetoxybenzoic acid | 0.06 mol, 11.9 g | FC1=C(C(=O)O)C=CC(=C1)OC(C)=O | C9H7FO4
reactant | 2-ethyl-1-butanol | 0.0402 mol, 3.7 g | C(C)C(CO)CC | C6H14O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-fluoro-4-acetoxy-1-(2-ethylbutyloxy)carbonylbenzene | FC1=C(C=CC(=C1)OC(C)=O)C(=O)OCC(CC)CC | C15H19FO4
